US07456218B2
tert-butyl 3-(4-hydroxyphenyl)propanoate
A mixture of tert-butyl (2E)-3-[4-(benzyloxy)phenyl]acrylate (13.3 g, 42.8 mmol), 10% palladium carbon (1.3 g), ethanol (100 mL) and ethyl acetate (30 mL) was stirred under a hydrogen atmosphere at room temperature for 19 hrs. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give the title compound (7.5 g, yield 79%) as colorless crystals.

reactant | tert-butyl (2E)-3-[4-(benzyloxy)phenyl]acrylate | 42.8 mmol, 13.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)OC(C)(C)C | C20H22O3
reactant | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.3 g | [C].[Pd]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(4-hydroxyphenyl)propanoate | 7.5 g, yield 79% | OC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C13H18O3
